US07919506B2
Preparation 34: tert-Butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-hydroxypiperidine-1-carboxylate
To a solution of (2-bromo-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane (904 mg; 2.45 mmol) in tetrahydrofuran (6.0 mL) at −78° C. was added dropwise n-butyllithium (1.5 mL; 3.75 mmol: 2.5M in hexanes). The reaction was stirred at −78° C. for 5 minutes. Then a solution of Boc-piperidone (831 mg; 4.17 mmol) in tetrahydrofuran (3 mL) was added dropwise into reaction. During addition reaction turned yellow in color. The reaction was stirred at −78° C. allowing it to warm to −40° C. within 1 hour. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride, water and brine. The organic layer was dried sodium sulfate and concentrated under reduced pressure. The residue was purified over 40 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-15% ethyl acetate in heptane) to give 526 mg (43.9% yield) of a white solid. MS (ES+): Calc. 489.6, Found: 534.6 (M−HCO3). 1H NMR (400 MHz, CDCl3) δ ppm 7.54 (dd, J=8.30, 8.71 Hz, 1H), 7.49 (d, J=1.66 Hz, 1H), 7.40 (d, J=8.30 Hz, 1H), 5.02 (s, 2H), 4.78 (s, 1H), 4.04 (d, J=16.18 Hz, 2H), 3.28 (dt, J=12.86, 2.90, 13.28, 2H), 2.00 (dt, J=12.86, 13.28, 4.98, 4.56, 2H), 1.84 (d, J=12.45 Hz, 2H), 1.50 (s, 9H), 0.92 (s, 9H), 0.13 (s, 6H).

reactant | (2-bromo-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane | 2.45 mmol, 904 mg | BrC1=C(CO[Si](C)(C)C(C)(C)C)C=C(C=C1)C(F)(F)F | C14H20BrF3OSi
reactant | n-butyllithium | 3.75 mmol, 2.5M, 1.5 mL | C(CCC)[Li]
reactant | Boc-piperidone | 4.17 mmol, 831 mg | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)phenyl)-4-hydroxypiperidine-1-carboxylate | 526 mg, 43.9% yield | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C24H38F3NO4Si
